US05962002
Preparation of 2-(2.2-dimethylpropyl)-3-hydroxy-naphthalene-1 4-dione
This compound was prepared by the general methods as described in Examples 1 to 15. Lawsone (0.15 g), 3,3-dimethylbutyric acid (0.15 g), and silver nitrate (0.15 g) were heated in a mixture of acetonitrile (5 ml) and water (5 ml) at 60-65° C. A solution of ammonium peroxysulphate (0.3 g) in water (5 ml) was added dropwise and the mixture heated for 1 hour and then processed as for Example 3 to yield the title compound . The crude product was purified on a silica gel column using 20% diethyl ether in petroleum ether eluant and recrystallised from petroleum ether to yield 38 mg of the title compound.

reactant | Lawsone | 0.15 g | C=1C=CC2=C(C1)C(=O)C=C(C2=O)O | C10H6O3
reactant | 3,3-dimethylbutyric acid | 0.15 g | CC(CC(=O)O)(C)C | C6H12O2
reactant | ammonium peroxysulphate | 0.3 g | S(=O)(=O)([O-])O[O-].[NH4+].[NH4+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
catalyst | silver nitrate | 0.15 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-(2.2-dimethylpropyl)-3-hydroxy-naphthalene-1 4-dione | CC(CC=1C(C2=CC=CC=C2C(C1O)=O)=O)(C)C | C15H16O3
